US07745641B2
In a similar manner to Step 1 of Example 152, 4-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (80.0 mg, 0.135 mmol) was dissolved in dimethoxyethane (5.6 mL), and the solution was added with (3-aminocarbonylphenyl)boronic acid (89 mg, 0.54 mmol), [bis(diphenylphosphino)ferrocene]dichloropalladium (17.6 mg, 0.0216 mmol), potassium carbonate (93.0 mg, 0.675 mmol) and water (0.049 mL), followed by purification by preparative thin-layer chromatography (chloroform/methanol=5/1) to obtain 4-(3-carbamoylphenyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (36.1 mg, yield 47%).

reactant | 4-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.135 mmol, 80.0 mg | FC(S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O)(F)F | C28H30F3N3O6S
reactant | (3-aminocarbonylphenyl)boronic acid | 0.54 mmol, 89 mg | NC(=O)C=1C=C(C=CC1)B(O)O | C7H8BNO3
reactant | potassium carbonate | 0.675 mmol, 93.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.049 mL | O | H2O
solvent | dimethoxyethane | 5.6 mL | C(OC)COC | C4H10O2
product | 4-(3-carbamoylphenyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 36.1 mg, yield 47% | C(N)(=O)C=1C=C(C=CC1)C1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C34H36N4O4
